US07049312B1
Synthesis of 2-[(4-Cyanophenyl)methylene]-2H-1,4-benzoxazin-3(4H)-one
4-Cyanobenzaldehyde (1.98 g, 0.015 mol) was added to a mixture of 2H-1,4-benzoxazin-3(4H)-one (1.49 g, 0.01 mol), acetic anhydride (4 ml) and triethylamine (2 ml). The reaction mixture was refluxed for 7 h, left overnight at room temperature and poured into crushed ice. The precipitated solid was collected by filtration and washed with acetonitrile. The crude product was purified by recrystalization from DMF:ethanol.

reactant | 4-Cyanobenzaldehyde | 0.015 mol, 1.98 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 2H-1,4-benzoxazin-3(4H)-one | 0.01 mol, 1.49 g | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | acetic anhydride | 4 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | 2-[(4-Cyanophenyl)methylene]-2H-1,4-benzoxazin-3(4H)-one | C(#N)C1=CC=C(C=C1)C=C1OC2=C(NC1=O)C=CC=C2 | C16H10N2O2
